US04267174
1-Propionyl-2-cyanoaziridine.
A solution of 0.92 g. propionyl chloride in 40 ml. anhydrous diethyl ether is added dropwise at 0° to 5° C., in the course of about 15 minutes, to a solution of 0.68 g. 2-cyanoaziridine and 1.2 g. triethylamine in 40 ml. anhydrous diethyl ether. The reaction mixture is stirred for 1 hour at 0° C. and then for 2 hours at ambient temperature. The precipitated salt is filtered off with suction and washed with diethyl ether into the filtrate and the filtrate is evaporated in a vacuum to give 1.44 g. of an oil. This is dissolved in ethyl acetate, shaken with a saturated aqueous solution of sodium bicarbonate, dried and then evaporated in a vacuum. There is thus obtained 1.14 g. 1-propionyl-2-cyanoaziridine in the form of a pale oil, the analytical data (elementary analysis, NMR and mass spectra) of which confirm the structure. The product is slightly contaminated with water.

reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-Propionyl-2-cyanoaziridine | C(CC)(=O)N1C(C1)C#N | C6H8N2O
